US07169777B2
1-Methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
(2-Bromo-benzyl)-carbamic acid tert-butyl ester: To a mixture of 125.0 g (561.8 mmol) of 2-bromobenzylamine hydrochloride and 170.7 g (1236.0 mmol) of potassium carbonate in 300 mL of 50% tetrahydrofuran/water was added 134.9 g (618.0 mmol) of di-tert-butyl dicarbonate in four portions over 20 min. The mixture was stirred at room temperature for 16 hr. and diluted with 300 mL of ethyl acetate and 300 mL of water. The organic portion was separated and the aqueous portion was extracted three times with 200 mL each of ethyl acetate. The combined ethyl acetate portions were washed once with 250 mL of 10% aqueous sodium bisulfate. The organic portion was dried (MgSO4), filtered and concentrated in vacuo to afford 161.0 g of the title compound.

reactant | (2-Bromo-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=CC=C1)Br)=O | C12H16BrNO2
reactant | 2-bromobenzylamine hydrochloride | 561.8 mmol, 125.0 g | Cl.BrC1=C(CN)C=CC=C1
reactant | potassium carbonate | 1236.0 mmol, 170.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 618.0 mmol, 134.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran water | 300 mL | O1CCCC1.O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 300 mL | O | H2O
product | 1-Methoxycarbonylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 161.0 g | C(C)(C)(C)OC(=O)N1C(C2=CC=CC=C2C1)CC(=O)OC | C16H21NO4
